US05028605
1.55 g (50 mmol) of 40% strength aqueous methylamine solution is added to a solution of 2.53 g (10 mmol) of 3,5-dibromo-2-aminopyrazine in ethanol. The mixture is stirred in an autoclave at 130° C. for 17 hours. After evaporation of the solvent under reduced pressure, the product is purified by chromatography on a silica column (eluant=CH2Cl2, to which 3% of CH3OH has been added). 0.8 g (Yld=40%) of 2-amino-5-bromo-3-methylaminopyrazine (m.p. 121° C.) is obtained.

reactant | methylamine | CN | CH5N
reactant | 3,5-dibromo-2-aminopyrazine | 10 mmol, 2.53 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-5-bromo-3-methylaminopyrazine | 0.8 g, 40% | NC1=NC=C(N=C1NC)Br | C5H7BrN4
